US06599902B2
Synthesis of 5-[5-(3,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid
A mixture of 5-(3,5-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one (356 mg, 1 mmol), 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (167 mg) and piperidine (cat. amount) in ethanol was stirred at rt for 2 days. The reaction was concentrated and triturated with HCl (2M solution) to give the titled compound.

reactant | 5-(3,5-dichloro-phenylmethanesulfonyl)-1,3-dihydro-indol-2-one | 1 mmol, 356 mg | ClC=1C=C(C=C(C1)Cl)CS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C15H11Cl2NO3S
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 167 mg | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | ethanol | C(C)O | C2H6O
product | 5-[5-(3,5-Dichloro-phenylmethanesulfonyl)-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | ClC=1C=C(C=C(C1)Cl)CS(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C1=C(C(=C(N1)C)C(=O)O)C | C23H18Cl2N2O5S
